US08541594B2
To a solution of the 3-[2-(4-chlorophenyl)-5-ethylthiazol-4-yl]bicyclo[3.2.1]octane-2,4-dione (100 mg, 0.28 mmol) in dichloromethane (5 ml) and triethylamine (140 μl, 1 mmol) is added pivaloyl chloride (123 μl, 1 mmol) at room temperature. The reaction mixture is stirred overnight at room temperature. Silica gel is added to the crude reaction mixture, the solvent is evaporated under reduced pressure and the residue is purified by flash chromatography on silica gel to give 2,2-dimethylpropionic acid 3-[2-(4-chlorophenyl)-5-ethylthiazol-4-yl]-4-oxobicyclo[3.2.1]oct-2-en-2-yl ester (101 mg)

reactant | 3-[2-(4-chlorophenyl)-5-ethylthiazol-4-yl]bicyclo[3.2.1]octane-2,4-dione | 0.28 mmol, 100 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C1C(C2CCC(C1=O)C2)=O)CC | C19H18ClNO2S
reactant | triethylamine | 1 mmol, 140 μl | C(C)N(CC)CC | C6H15N
reactant | pivaloyl chloride | 1 mmol, 123 μl | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 2,2-dimethylpropionic acid 3-[2-(4-chlorophenyl)-5-ethylthiazol-4-yl]-4-oxobicyclo[3.2.1]oct-2-en-2-yl ester | 101 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C1=C(C2CCC(C1=O)C2)OC(C(C)(C)C)=O)CC | C24H26ClNO3S
